US06583319B1
Step A: 3-(2-Methoxy-1-naphthyl)-2-propenenitrile
Starting from 5 g (26.85 mmol) of 2-methoxynaphthaldehyde in 30 ml of anhydrous THF in the presence of 1.3 g (1.2 eq) of NaH (60% in oil) in 15 ml of anhydrous THF and 6.5 ml (1.2 eq) of diethyl cyanomethylphosphonate, the title product is obtained in the form of a white solid.

reactant | 2-methoxynaphthaldehyde | 26.85 mmol, 5 g | COC1=C(C2=CC=CC=C2C=C1)C=O | C12H10O2
reactant | NaH | 1.3 g, 1.2 eq | [H-].[Na+]
reactant | diethyl cyanomethylphosphonate | 6.5 ml, 1.2 eq | C(#N)CP(OCC)(OCC)=O | C6H12NO3P
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 3-(2-Methoxy-1-naphthyl)-2-propenenitrile | COC1=C(C2=CC=CC=C2C=C1)C=CC#N | C14H11NO
